US04622318
To a solution of benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-phenylvinylthiomethyl]-3-cephem-4-carboxylate (syn isomer) (748 mg) in a mixture of methylene chloride (2.24 ml), anisole (0.37 ml) and thioanisole (0.37 ml) was added trifluoroacetic acid (1.5 ml) under ice-cooling. The mixture was stirred for 30 minutes at the same temperature and poured into diisopropyl ether (50 ml). The resulting precipitate was collected, washed with diisopropyl ether and dissolved in a mixture of ethyl acetate and an aqueous solution of sodium bicarbonate at pH 7. The aqueous layer was separated, adjusted to pH 6.2 with diluted hydrochloric acid and extracted with ethyl acetate three times. The extract was dried over magnesium sulfate and concentrated in vacuo. The residue was triturated in diisopropyl ether to give 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-phenylvinylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer) (207 mg).

reactant | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-phenylvinylthiomethyl]-3-cephem-4-carboxylate | 748 mg | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CS\C=C/C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC=C | C36H32N6O5S3
reactant | anisole | 0.37 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | thioanisole | 0.37 ml | C1(=CC=CC=C1)SC | C7H8S
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 2.24 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-phenylvinylthiomethyl]-3-cephem-4-carboxylic acid | 207 mg | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CS\C=C/C2=CC=CC=C2)C(=O)O)C1=O)=NOCC=C | C23H22N6O5S3
